* Z:\celera\projects\Simplis\playbrian\Waltz\oscillator\verification\sim_oscillator_ext.sxsch
*#SIMETRIX
X$CV 12 celera vars: simulation_module='name' status='dev' simulation='typical'

.node_map osc 15
.node_map SIMPV 17
.node_map ok_oscillator 20
.node_map fault_oscillator 19
.node_map RT 16
.node_map IOSC 14
.node_map enable_oscillator 18
.options
+ PSP_NPT=10001
+ POP_ITRMAX=20
+ POP_OUTPUT_CYCLES=5
+ POP_SHOWDATA
+ SNAPSHOT_INTVL=0
+ SNAPSHOT_NPT=11
+ MIN_AVG_TOPOLOGY_DUR=1a
+ AVG_TOPOLOGY_DUR_MEASUREMENT_WINDOW=128
*.pop TRIG_GATE={{TRIG_GATE}} TRIG_COND=0_TO_1 MAX_PERIOD=1u CONVERGENCE=1p CYCLES_BEFORE_LAUNCH=5 TD_RUN_AFTER_POP_FAILS=-1
.tran 300u 0
.globalvar REF=1.0
.globalvar VIN=5
.globalvar tdext_khz=1000


X$oscillator_ext 20 17 18 19 14 16 15 oscillator_ext
** From Z:\celera\projects\Simplis\playbrian\Waltz\oscillator\verification\FORCE_oscillator_ext.sxcmp


** From Z:\celera\projects\Simplis\playbrian\Waltz\oscillator\design\oscillator_ext.sxcmp
.subckt oscillator_ext 28 35 30 34 33 32 31
*#hierarchy
.node_map ok_oscillator_delay 29
.node_map osc 31
.node_map SIMPV 35
.node_map fault_oscillator 34
.node_map ok_oscillator 28
.node_map RT 32
.node_map IOSC 33
.node_map enable_oscillator 30
X$get_ok_driver_delay 30 28 29 VESPAdftpulse
X$IXoscext 28 35 31 34 33 32 30 26 27 oscillator vars: osc_type='external' osc_accuracy='yes' osc_datasheet_accuracy_name='CLOCK_accuracy_at_400KHz_50K' osc_datasheet_accuracy_description='CLOCKaccuracy' osc_enable='pin' osc_enable_por='disable' osc_datasheet_enable_name='text' osc_datasheet_enable_description='text' osc_ss='no' osc_standbyclock='no' osc_standbyclockpor='disable' osc_ext_freq_default='yes' osc_crystalbias='1' osc_crystalglobalref='yes' osc_ss_configuration='fixed' osc_ss_enable_control='fixed' osc_ss_mode_por='sweep' osc_ss_enable_por='enable' osc_ss_clock_sync='synchronized' osc_ss_datasheetname='text' osc_dft='no' osc_ibias='global' osc_int_freq=1K osc_int_duty=50 osc_int_ireplica_gain=10 osc_int_1=0 osc_ext_freq=400 osc_ext_resistor=50 osc_ext_duty=50 osc_ext_replicagain=1 osc_ext_comment=0 osc_crude_freq=500 osc_crude_generatesupply=3.3 osc_crude_duty=50 osc_crystalfreq=1 osc_crystalreflocal=1 osc_crystalcleancountpor=32 osc_ringfreq=20 osc_ss_range_por=5 osc_ss_clock_independent=50 osc_ss_clock_divide=64 osc_vmax=6 osc_crude_supply=2.3 osc_ss_datasheet_name='text' osc_cleancountpor=16
X$OSC 31 dftprobeModel1 vars: dftprobe_mode='digital' digitalinfo='Only_Use_For_Digital' analoginfo='Only_use_for_Analog' dftprobe_note='Probe_Analog_Signal_less_than_VIN_and_when_disabled_is_rated_to_StandOff_Voltage' dftprobe_name='OSC' dftprobe_description='OSC_output' dftprobe_highvoltage=6 dftprobe_enable=1 dftprobe_vmax=6
X$OSCok 28 dftprobeModel1 vars: dftprobe_mode='digital' digitalinfo='Only_Use_For_Digital' analoginfo='Only_use_for_Analog' dftprobe_note='Probe_Analog_Signal_less_than_VIN_and_when_disabled_is_rated_to_StandOff_Voltage' dftprobe_name='OSCok' dftprobe_description='OSC_ok' dftprobe_highvoltage=6 dftprobe_enable=1 dftprobe_vmax=6
X$OSCok_delay 29 dftprobeModel1 vars: dftprobe_mode='digital' digitalinfo='Only_Use_For_Digital' analoginfo='Only_use_for_Analog' dftprobe_note='Probe_Analog_Signal_less_than_VIN_and_when_disabled_is_rated_to_StandOff_Voltage' dftprobe_name='OSCok_delay' dftprobe_description='OSC_ok_Delay' dftprobe_highvoltage=6 dftprobe_enable=1 dftprobe_vmax=6
X$U13 28 pinprobe vars: pinprobe_description=' pinprobe_mode='output' pinprobe_input='tbd' pinprobe_output='tbd'
X$U18 35 pinprobe vars: pinprobe_description=' pinprobe_mode='input' pinprobe_input='pad' pinprobe_output='tbd'
X$U22 30 pinprobe vars: pinprobe_description=' pinprobe_mode='input' pinprobe_input='service' pinprobe_output='tbd'
X$U26 34 pinprobe vars: pinprobe_description=' pinprobe_mode='output' pinprobe_input='tbd' pinprobe_output='tbd'
X$U30 33 pinprobe vars: pinprobe_description=' pinprobe_mode='output' pinprobe_input='tbd' pinprobe_output='pad'
X$U34 32 pinprobe vars: pinprobe_description=' pinprobe_mode='input' pinprobe_input='pad' pinprobe_output='tbd'
X$U38 31 pinprobe vars: pinprobe_description=' pinprobe_mode='output' pinprobe_input='tbd' pinprobe_output='tbd'
.ends oscillator_ext

** From Z:\celera\simplis\LIB\VESPA\VESPAdftpulse.sxcmp
.subckt VESPAdftpulse 7 8 9
*#hierarchy
.node_map start 7
.node_map stop 8
.node_map pulse 9
X$U11 7 pinprobe vars: pinprobe_description='DFT_timer_start_input'
X$U15 8 6 inv vars: logicgate_type='inv' logicgate_vmax=6
X$U17 8 pinprobe vars: pinprobe_description='DFT_timer_stop_input'
X$U52 7 4 6 nand2 vars: logicgate_type='nand2' logicgate_vmax=6
X$U53 4 5 inv vars: logicgate_type='inv' logicgate_vmax=6
X$U55 9 5 dbuf vars: logicgate_type='dbuf' logicgate_vmax=6
X$U8 9 pinprobe vars: pinprobe_description='DFT_Timer_pulse'
.ends VESPAdftpulse

.end
